US08877778B2
A mixture of commercially available 4-bromo-7-fluoro-benzofurane [CAS-No 1194376-46-9] (0.72 g, 3.35 mmol) and commercially available tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate (1.09 g, 3.52 mmol) in 1,2-dimethoxyethane (22 ml) and 2M sodium carbonate solution (5.58 ml, 11.2 mmol) was purged with argon in an ultrasonic bath during 5 min. Then triphenylphosphine (176 mg, 0.67 mmol) and palladium(II)acetate (75.2 mg, 0.34 mmol) were added and the reaction mixture was allowed to stir at 85° C. for 5 h. The reaction mixture was cooled to room temperature, poured into water (50 ml) and extracted with diethyl ether (2×120 ml). The combined organic layers were washed with brine (50 ml), dried (MgSO4) and evaporated. The crude product (1.7 g) was further purified by flash chromatography on silica gel (heptane/ethyl acetate, 0-50%) to yield 4-(7-fluoro-benzofuran-4-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester as a yellow oil (0.97 g, 91%), MS (ISP) m/z=262.1 [(M+H)+].

reactant | 4-bromo-7-fluoro-benzofurane | 3.35 mmol, 0.72 g | BrC1=CC=C(C2=C1C=CO2)F | C8H4BrFO
reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 3.52 mmol, 1.09 g | CC1(OB(OC1(C)C)C1=CCN(CC1)C(=O)OC(C)(C)C)C | C16H28BNO4
reactant | sodium carbonate | 11.2 mmol, 2M, 5.58 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | triphenylphosphine | 0.67 mmol, 176 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | 1,2-dimethoxyethane | 22 ml | COCCOC | C4H10O2
catalyst | palladium(II)acetate | 0.34 mmol, 75.2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 50 ml | O | H2O
product | 4-(7-fluoro-benzofuran-4-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.97 g, 91% | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC=C(C2=C1C=CO2)F | C18H20FNO3
